US07049323B2
To a stirred solution of (3S)-3-amino-pyrrolidine-1-carboxylic acid, benzyl ester (4.40 g, 20 mmol) in methanol (120 mL) was added cyclohexanone (2.75 g, 28 mmol) followed by sodium cyanoborohydride (1.50 g, 24 mmol) at room temprerature. After 3 h, the reaction mixture was concentrated, diluted with dichloromethane (200 mL), washed with aqueous sodium bicarbonate (100 mL), 1 N sodium hydroxide (50 mL), brine (50 mL) and dried (Na2SO4). The crude was purified by flash chromatography using 5% methanol in dichloromethane to give (3S)-3-cyclohexylamino-pyrrolidine-1-carboxylic acid benzyl ester in 73% yield. 1H NMR (300 MHz, CDCl3): in δ 7.36–7.26 (m, 5H), 5.11 (s, 2H), 3.65–3.35 (m, 4H), 3.1–2.95 (m, 1H), 2.5–2.38 (m, 1H), 2.11–1.98 (m, 1H), 1.92–1.54 (m, 5H), 1.31–0.95 (m, 6H); 13C NMR (300 MHz, CDCl3): in δ 154.9, 137.1, 128.4, 127.8, 66.7, 55.0, 54.6, 53.8, 52.6, 44.7, 44.3, 34.1, 32.8, 32.0, 26.1, 25.1; MS (ESI+), 303 (M+H); Rf=1.16.

reactant | (3S)-3-amino-pyrrolidine-1-carboxylic acid, benzyl ester | 20 mmol, 4.40 g | N[C@@H]1CN(CC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | cyclohexanone | 28 mmol, 2.75 g | C1(CCCCC1)=O | C6H10O
reactant | sodium cyanoborohydride | 24 mmol, 1.50 g | C(#N)[BH3-].[Na+]
solvent | methanol | 120 mL | CO | CH4O
product | (3S)-3-cyclohexylamino-pyrrolidine-1-carboxylic acid benzyl ester | 73% yield | C(C1=CC=CC=C1)OC(=O)N1C[C@H](CC1)NC1CCCCC1 | C18H26N2O2
